US09108966B2
Step 5: Synthesis of (2S,5R)-tert-butyl 5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-2-(1,2,4-thiadiazol-5-yl)piperidine-1-carboxylate
A solution of pyridine (320 mg, 4.0 mmol) in CH3OH (10 mL) was added to a mixture of (2S,5R)-tert-butyl 5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-2-((E)-(dimethylamino)methylenecarbamothioyl)piperidine-1-carboxylate (1.2 g, 2.0 mmol) in EtOH (20 mL), followed by addition of (aminooxy)sulfonic acid (270 mg, 2.4 mmol). The mixture was stirred at rt for 2 hrs. The solvent was removed, and the residue was purified by silica gel column chromatography (3:1 petroleum ether/EtOAc) to (2S,5R)-tert-butyl 5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-2-(1,2,4-thiadiazol-5-yl)piperidine-1-carboxylate (520 mg, 48%) as a yellow solid. ESI-MS (EI+, m/z): 598 [M+Na]+.

reactant | pyridine | 4.0 mmol, 320 mg | N1=CC=CC=C1 | C5H5N
reactant | (2S,5R)-tert-butyl 5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-2-((E)-(dimethylamino)methylenecarbamothioyl)piperidine-1-carboxylate | 2.0 mmol, 1.2 g | C(C1=CC=CC=C1)ON(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])[C@@H]1CC[C@H](N(C1)C(=O)OC(C)(C)C)C(/N=C/N(C)C)=S | C27H35N5O7S2
reactant | (aminooxy)sulfonic acid | 2.4 mmol, 270 mg | NOS(=O)(=O)O | H3NO4S
solvent | CH3OH | 10 mL | CO | CH4O
solvent | EtOH | 20 mL | CCO | C2H6O
product | (2S,5R)-tert-butyl 5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-2-(1,2,4-thiadiazol-5-yl)piperidine-1-carboxylate | C(C1=CC=CC=C1)ON(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])[C@@H]1CC[C@H](N(C1)C(=O)OC(C)(C)C)C1=NC=NS1 | C25H29N5O7S2
